US04058550
A solution of 11.8 g of 4-(n-hexadecylamino)benzoic acid, 1.00 g of glycerol, and 5.35 ml of boron trifluoride etherate in 200 ml of toluene is stirred under reflux for 48 hours. The solution is treated with an additional 5.35 ml of boron trifluoride etherate and refluxing is continued for 120 hours. Dilution with water and methylene chloride followed by filtration affords 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate as a white solid.

reactant | 4-(n-hexadecylamino)benzoic acid | 11.8 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | glycerol | 1.00 g | OCC(O)CO | C3H8O3
reactant | boron trifluoride etherate | 5.35 ml | B(F)(F)F.CCOCC
reactant | boron trifluoride etherate | 5.35 ml | B(F)(F)F.CCOCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C26H45NO4
